US08207172B2
Preparation of N-{3-chloro-4-[(3-fluorobenzyl)oxy]phenyl}-2-(1-isopropylpiperidin-4-yl)-4,5-dihydro-2H-pyrimido[5′,4′:4,5]thieno[2,3-e]indazol-6-amine
To a solution of N-{3-chloro-4-[(3-fluorobenzyl)oxy]phenyl}-2-piperidin-4-yl-4,5-dihydro-2H-pyrimido[5′,4′:4,5]thieno[2,3-e]indazol-6-amine (40 mg, 0.07 mmol, 1 eq) in THF (1 mL) was added acetone (8 mg, 0.14 mmol, 2 eq), sodium triacetoxyborohydride (23 mg, 0.11 mmol, 1.5 eq) and trace amount of acetic acid. It was stirred at rt for 16 h. The mixture was purified by preparative HPLC to yield the desired product (15.4 mg, 36%). 1H-NMR (DMSO-d6) δ 8.41 (broad, 1H), 8.32 (d, 1H), 8.01 (d, 1H), 7.74 (d, 1H), 7.5 (dd, 1H), 7.44 (m, 1H), 7.29 (m, 2H), 7.20 (d, 1H), 7.15 (m, 1H), 5.24 (s, 2H), 4.04 (m, 1H), 3.36 (m, 4H), 2.92 (m, 3H), 2.74 (m, 1H), 2.25 (m, 1H), 2.02 (m, 2H), 1.89 (m, 2H), 0.99 (d, 6H). LCMS RT=2.87 min; [M+H]+=603.2.

reactant | N-{3-chloro-4-[(3-fluorobenzyl)oxy]phenyl}-2-piperidin-4-yl-4,5-dihydro-2H-pyrimido[5′,4′:4,5]thieno[2,3-e]indazol-6-amine | 0.07 mmol, 40 mg, 1 eq | ClC=1C=C(C=CC1OCC1=CC(=CC=C1)F)NC=1N=CN=C2C1C1=C(C3=CN(N=C3CC1)C1CCNCC1)S2 | C29H26ClFN6OS
reactant | acetone | 0.14 mmol, 8 mg, 2 eq | CC(=O)C | C3H6O
reactant | sodium triacetoxyborohydride | 0.11 mmol, 23 mg, 1.5 eq | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | THF | 1 mL | C1CCOC1 | C4H8O
product | N-{3-chloro-4-[(3-fluorobenzyl)oxy]phenyl}-2-(1-isopropylpiperidin-4-yl)-4,5-dihydro-2H-pyrimido[5′,4′:4,5]thieno[2,3-e]indazol-6-amine | 15.4 mg, 36% | ClC=1C=C(C=CC1OCC1=CC(=CC=C1)F)NC=1N=CN=C2C1C1=C(C3=CN(N=C3CC1)C1CCN(CC1)C(C)C)S2 | C32H32ClFN6OS
